US03931269
A solution of α-mercapto-6-methoxy-2-naphthylacetic acid (0.02 moles) in 25 ml. of pyridine is cooled in an ice bath. To this is added dropwise 2.1 mol (0.022 moles) of ethyl chloroformate. The mixture is then stirred for 2 hours, diluted with ether and filtered. The mixture is basified with 10% sodium bicarbonate solution. The alkaline mixture is worked with ether, then acidified with 10% hydrochloric acid, washed with ether, dried and filtered. The solvent is removed and the residue is triturated with hexane to obtain α-ethoxycarbonylthio-6-methoxy-2-naphthylacetic acid.

reactant | α-mercapto-6-methoxy-2-naphthylacetic acid | 0.02 moles | SC(C(=O)O)C1=CC2=CC=C(C=C2C=C1)OC | C13H12O3S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | 2.1 mol | ClC(=O)OCC | C3H5ClO2
solvent | ether | CCOCC | C4H10O
product | α-ethoxycarbonylthio-6-methoxy-2-naphthylacetic acid | C(C)OC(=O)SC(C(=O)O)C1=CC2=CC=C(C=C2C=C1)OC | C16H16O5S
